US08455111B2
[Step 1: Synthesis of 2-Phenyldibenzo[f,h]quinoxaline (abbreviation: Hdbq-P)]
First, 2.16 g of phenylglyoxal and 3.36 g of 9,10-diaminophenanthrene were dissolved in a solvent of 100 mL of dehydrated ethanol under a nitrogen atmosphere. The solution was refluxed for 7 hours to be reacted. The white power precipitated through the reaction was filtered. The residue was washed with ethanol and then ether to give a dibenzo[f,h]quinoxaline derivative, Hdbq-P, which was the target substance (yield: 92%). Synthesis scheme of Step 1 is shown in (a-1) below.

reactant | phenylglyoxal | 2.16 g | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 9,10-diaminophenanthrene | 3.36 g | NC=1C2=CC=CC=C2C=2C=CC=CC2C1N | C14H12N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Phenyldibenzo[f,h]quinoxaline | yield: 92% | C1(=CC=CC=C1)C1=NC2=C3C(=C4C(=C2N=C1)C=CC=C4)C=CC=C3 | C22H14N2
